US04478750
1,2,3,4,5,6-Hexahydro-9-hydroxy-3-methyl-6-phenylazepino[4,5-b]indole (process c)
A solution of 3.58 g of boron tribromide in 10 ml dichloromethane is added dropwise at -60° to a solution of 2 g 1,2,3,4,5,6-hexahydro-9-methoxy-3-methyl-6-phenyl-azepino[4,5-b]indole in 20 ml dichloromethane. The mixture is stirred at -60° for 1 hour and a dark oil separates out. The mixture is concentrated under reduced pressure and the residual oil is treated with 30 ml ethanol. The mixture is brought to reflux over 30 minutes and the hydrobromide of the title compound crystallizes out. The salt is then filtered off, washed with a little alcohol and partitioned between dichloromethane and aqueous ammonia to form the free base. The organic phase is separated off, washed with water, dried over sodium sulphate, filtered and concentrated under reduced pressure. The oily residue is dissolved in alcohol, treated with hydrochloric acid in ethanol to form the title compound in hydrochloride form, m.p. 290°-292° (decomp.).

reactant | boron tribromide | 3.58 g | B(Br)(Br)Br | BBr3
reactant | 1,2,3,4,5,6-hexahydro-9-methoxy-3-methyl-6-phenyl-azepino[4,5-b]indole | 2 g | COC1=CC=2C3=C(N(C2C=C1)C1=CC=CC=C1)CCN(CC3)C | C20H22N2O
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 1,2,3,4,5,6-Hexahydro-9-hydroxy-3-methyl-6-phenylazepino[4,5-b]indole | OC1=CC=2C3=C(N(C2C=C1)C1=CC=CC=C1)CCN(CC3)C | C19H20N2O
